US07875645B2
rac-2-(2,6-Dimethyl-benzyl)-5-methyl-4,5-dihydro-1H-imidazole was prepared from 2,6-dimethyl-phenyl-acetonitrile and 1,2-diaminopropane in analogy to Example 19 b): orange powder; MS (EI): 202.3 (M+.).

reactant | 2,6-dimethyl-phenyl-acetonitrile | CC1=C(C(=CC=C1)C)CC#N | C10H11N
reactant | 1,2-diaminopropane | NCC(C)N | C3H10N2
product | rac-2-(2,6-Dimethyl-benzyl)-5-methyl-4,5-dihydro-1H-imidazole | CC1=C(CC=2NC(CN2)C)C(=CC=C1)C | C13H18N2
